US08975254B2
b) 5-bromo-3-chloropicolinonitrile
Sodium nitrite (0.7 g, 10.15 mmol) was added to a cooled suspension of 3-amino-5-bromopicolinonitrile (1.67 g, 8.43 g) in 37% hydrochloric acid (14 ml, 169 mmol) and water (4.5 ml) and stirred for 1 h at 0-5° C. Copper powder (0.134 g, 2.11 mmol) was added and the mixture refluxed for 1 h. The mixture was cooled, quenched with ice water and basified with 48% NaOH. The mixture was extracted with EtOAc. The organic phase was washed with water and brine, dried over anhydrous Na2SO4, filtered and evaporated to give 1.21 g of the product. 1H-NMR (400 MHz; d6-DMSO): δ 8.75 (d, 1H, J=1.9 Hz), 8.90 (d, 1H, J=1.9 Hz).

reactant | Sodium nitrite | 10.15 mmol, 0.7 g | N(=O)[O-].[Na+]
reactant | 3-amino-5-bromopicolinonitrile | 1.67 g | NC=1C(=NC=C(C1)Br)C#N | C6H4BrN3
reactant | hydrochloric acid | 169 mmol, 14 ml | Cl | ClH
solvent | water | 4.5 ml | O | H2O
catalyst | Copper | 2.11 mmol, 0.134 g | [Cu] | Cu
product | 5-bromo-3-chloropicolinonitrile | 1.21 g | BrC=1C=C(C(=NC1)C#N)Cl | C6H2BrClN2
